US07262185B2
A solution of 3-hydroxymethyl-4-propyl-5-mercapto-4H-1,2,4-triazole (2.0 g), iodo methane (1.1 ml) and triethylamine (2.5 ml) in ethanol (20 ml) was stirred for 2 days at 50° C. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by column chromatography (ethanol:ethyl acetate 1:5→1:4), to give 3-hydroxymethyl-5-methylthio-4-propyl-4H-1,2,4-triazole (2.13 g) as pale yellow oil. To a solution of 3-hydroxymethyl-5-methylthio-4-propyl-4H-1,2,4-triazole (2.13 g) in chloroform (6 ml), thionyl chloride (16 ml) was slowly added at 0° C. The mixture was heated to reflux for 2 hours, and concentrated under reduced pressure. To the residue were added small amount of ethanol and ethyl acetate, and the precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate and diethylether, to give 3-chloromethyl-5-methylthio-4-propyl-4H-1,2,4-triazole hydrochloride (1.06 g) as colorless crystals.

reactant | 3-hydroxymethyl-4-propyl-5-mercapto-4H-1,2,4-triazole | 2.0 g | OCC1=NN=C(N1CCC)S | C6H11N3OS
reactant | iodo methane | 1.1 ml | IC | CH3I
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-hydroxymethyl-5-methylthio-4-propyl-4H-1,2,4-triazole | 2.13 g | OCC1=NN=C(N1CCC)SC | C7H13N3OS
